US05451588
3-[2-(N,N-Dimethylamino)ethyl]-5-(2-methyltetrazol-5-yl)benzo[b]thiophene.
To a mixture of -(2-aminoethyl)-5-(2-methyltetrazol-5-yl)benzo[b]thiophene (0.372 g, 1.43 mmol) and sodium cyanoborohydride (0.136 g, 2.15 mmol) in methanol (3 ml) and acetic acid (0.247 ml, 4.30 mmol) cooled in an ice bath was added 38% w/v formaldehyde solution (0.453 ml, 5.74 mmol) in methanol (3 ml) dropwise over 5 min and the mixture was stirred at room temperature for 3 h. After this time, saturated potassium carbonate solution (30 ml) was added and the mixture was extracted with ethyl acetate (3×50 ml). The combined extracts were evaporated in vacuo to leave 0.53 g. Chromatography on flash silica, eluting with 10-30% methanol/dichloromethane, gave 0.335 g (81%) of the title product as a colourless oil. The oxalate salt was prepared using oxalic add in methanol/ether to give the title product oxalate as a white solid, m.p. 214°-218° C. Analysis found: C, 50.58; H, 4.80; N, 18.28%. Calcd for C14H17N5S. C2H2O: C, 50.92; H, 5.07; N, 18.56%. δ (DMSO) 2.84 (6H, s), 3.30-3.42 (4H, m), 4.46 (3H, s), 7.69 (1H, s), 8.06 (1H, dd, J=8.4 and 1.4 Hz), 8.20 (1H, d, J= 8.4 Hz), 8.56 (1H, s). m/z (CI+,NH3) 288 (M+H)+.

reactant | (2-aminoethyl)-5-(2-methyltetrazol-5-yl)benzo[b]thiophene | 1.43 mmol, 0.372 g | NCCC1=CC2=C(S1)C=CC(=C2)C=2N=NN(N2)C | C12H13N5S
reactant | sodium cyanoborohydride | 2.15 mmol, 0.136 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 4.30 mmol, 0.247 ml | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 5.74 mmol, 0.453 ml | C=O | CH2O
reactant | potassium carbonate | 30 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
product | 3-[2-(N,N-Dimethylamino)ethyl]-5-(2-methyltetrazol-5-yl)benzo[b]thiophene | 0.335 g, 81% | CN(C)CCC=1C2=C(SC1)C=CC(=C2)C=2N=NN(N2)C | C14H17N5S
